US04578482
Synthesis of prostacyclin sodium salt
5 mg of prostacyclin methyl ester was stirred at room temperature for 8 hours in 0.2 ml of a 0.35M aqueous solution of sodium hydroxide and 0.2 ml of ethanol to prepare an aqueous solution of a sodium salt of prostacyclin.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium | [Na] | Na
reactant | prostacyclin | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@H]2[C@@H]1C/C(=C/CCCC(=O)O)/O2)O)O | C20H32O5
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | prostacyclin sodium salt | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@H]2[C@@H]1C/C(=C/CCCC(=O)[O-])/O2)O)O.[Na+] | InChI=1S/C20H32O5.Na/c1-2-3-4-7-14(21)10-11-16-17-12-15(8-5-6-9-20(23)24)25-19(17)13-18(16)22;/h8,10-11,14,16-19,21-22H,2-7,9,12-13H2,1H3,(H,23,24);/q;+1/p-1/b11-10+,15-8-;/t14-,16+,17+,18+,19-;/m0./s1
